### PR TITLE
feat(CategoryTheory/Subobject): extend image subobject API

### PR DESCRIPTION
**Pull request by mckoen**
Extends some API for image subobjects. This PR exists to split up #41769.

---

- [x] depends on: #42757 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Subobject/Lattice.lean [hunk 1]
```diff
@@ -509,6 +516,35 @@ theorem sup_factors_of_factors_right {A B : C} {X Y : Subobject B} {f : A ⟶ B}
     (X ⊔ Y).Factors f :=
   factors_of_le f le_sup_right P
 
+/-- If `C` has binary coproducts and `f g : Subobject A`, then `f ⨿ g ⟶ A` factors as
+  `f ⨿ g ⟶ f ⊔ g ⟶ A` -/
+@[simps]
+def supMonoFactorisation {A : C} (f g : Subobject A) : MonoFactorisation
+    (coprod.desc f.arrow g.arrow) where
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Lattice.lean]:
```suggestion
def supMonoFactorisation {A : C} (f g : Subobject A) :
    MonoFactorisation (coprod.desc f.arrow g.arrow) where
```

File: Mathlib/CategoryTheory/Subobject/Lattice.lean [hunk 2]
```diff
@@ -509,6 +516,35 @@ theorem sup_factors_of_factors_right {A B : C} {X Y : Subobject B} {f : A ⟶ B}
     (X ⊔ Y).Factors f :=
   factors_of_le f le_sup_right P
 
+/-- If `C` has binary coproducts and `f g : Subobject A`, then `f ⨿ g ⟶ A` factors as
+  `f ⨿ g ⟶ f ⊔ g ⟶ A` -/
+@[simps]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Lattice.lean]:
```suggestion
@[simps, implicit_reducible]
```
The reason being that `I` is an object, so this will likely show up as an implicit argument to a composition

File: Mathlib/CategoryTheory/Subobject/Lattice.lean [hunk 3]
```diff
@@ -509,6 +516,35 @@ theorem sup_factors_of_factors_right {A B : C} {X Y : Subobject B} {f : A ⟶ B}
...
+def supMonoFactorisation {A : C} (f g : Subobject A) : MonoFactorisation
+    (coprod.desc f.arrow g.arrow) where
+  I := underlying.obj (f ⊔ g)
+  m := (f ⊔ g).arrow
+  m_mono := inferInstance
+  e := coprod.desc (f.ofLE (f ⊔ g) le_sup_left) (g.ofLE (f ⊔ g) le_sup_right)
+  fac := by simp only [coprod.desc_comp, ofLE_arrow]
+
+/-- If `C` has binary coproducts, then `f ⊔ g` is an image of `f ⨿ g ⟶ A`. -/
+@[simps]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Lattice.lean]: Most of the time we don’t generate `@[simps]` projections for the IsColimit-like structures.
```suggestion
```

File: Mathlib/CategoryTheory/Subobject/Lattice.lean [hunk 4]
```diff
@@ -509,6 +516,35 @@ theorem sup_factors_of_factors_right {A B : C} {X Y : Subobject B} {f : A ⟶ B}
...
+    · refine le_mk_of_comm (coprod.inl ≫ F.e) ?_
+      · simp only [assoc, MonoFactorisation.fac, coprod.inl_desc]
+    · refine le_mk_of_comm (coprod.inr ≫ F.e) ?_
+      · simp only [assoc, MonoFactorisation.fac, coprod.inr_desc]
+  lift_fac := by simp [supMonoFactorisation]
+
+/-- If `C` has binary coproducts, then `f ⊔ g ≅ image (f ⨿ g ⟶ A)`. -/
+@[simps!]
+def supIsoImage {A : C} (f g : Subobject A) : underlying.obj (f ⊔ g) ≅
+    image (coprod.desc f.arrow g.arrow) :=
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Lattice.lean]:
```suggestion
def supIsoImage {A : C} (f g : Subobject A) :
    underlying.obj (f ⊔ g) ≅ image (coprod.desc f.arrow g.arrow) :=
```

File: Mathlib/CategoryTheory/Subobject/Lattice.lean [hunk 5]
```diff
@@ -509,6 +516,35 @@ theorem sup_factors_of_factors_right {A B : C} {X Y : Subobject B} {f : A ⟶ B}
...
+/-- If `C` has binary coproducts, then `f ⊔ g` is an image of `f ⨿ g ⟶ A`. -/
+@[simps]
+def supIsImage {A : C} (f g : Subobject A) :
+    IsImage (supMonoFactorisation f g) where
+  lift F := by
+    refine (f ⊔ g).ofLEMk F.m (sup_le ?_ ?_)
+    · refine le_mk_of_comm (coprod.inl ≫ F.e) ?_
+      · simp only [assoc, MonoFactorisation.fac, coprod.inl_desc]
+    · refine le_mk_of_comm (coprod.inr ≫ F.e) ?_
+      · simp only [assoc, MonoFactorisation.fac, coprod.inr_desc]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Lattice.lean]:
```suggestion
      simp only [assoc, MonoFactorisation.fac, coprod.inl_desc]
    · refine le_mk_of_comm (coprod.inr ≫ F.e) ?_
      simp only [assoc, MonoFactorisation.fac, coprod.inr_desc]
```

File: Mathlib/CategoryTheory/Subobject/Lattice.lean [hunk 6]
```diff
@@ -509,6 +516,35 @@ theorem sup_factors_of_factors_right {A B : C} {X Y : Subobject B} {f : A ⟶ B}
...
+/-- If `C` has binary coproducts and `f g : Subobject A`, then `f ⨿ g ⟶ A` factors as
+  `f ⨿ g ⟶ f ⊔ g ⟶ A` -/
+@[simps]
+def supMonoFactorisation {A : C} (f g : Subobject A) : MonoFactorisation
+    (coprod.desc f.arrow g.arrow) where
+  I := underlying.obj (f ⊔ g)
+  m := (f ⊔ g).arrow
+  m_mono := inferInstance
+  e := coprod.desc (f.ofLE (f ⊔ g) le_sup_left) (g.ofLE (f ⊔ g) le_sup_right)
+  fac := by simp only [coprod.desc_comp, ofLE_arrow]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Lattice.lean]: Autoparameters work their magic here
```suggestion
  e := coprod.desc (f.ofLE (f ⊔ g) le_sup_left) (g.ofLE (f ⊔ g) le_sup_right)
```

File: Mathlib/CategoryTheory/Subobject/Lattice.lean [hunk 7]
```diff
@@ -509,6 +516,35 @@ theorem sup_factors_of_factors_right {A B : C} {X Y : Subobject B} {f : A ⟶ B}
...
+@[simps]
+def supIsImage {A : C} (f g : Subobject A) :
+    IsImage (supMonoFactorisation f g) where
+  lift F := by
+    refine (f ⊔ g).ofLEMk F.m (sup_le ?_ ?_)
+    · refine le_mk_of_comm (coprod.inl ≫ F.e) ?_
+      · simp only [assoc, MonoFactorisation.fac, coprod.inl_desc]
+    · refine le_mk_of_comm (coprod.inr ≫ F.e) ?_
+      · simp only [assoc, MonoFactorisation.fac, coprod.inr_desc]
+  lift_fac := by simp [supMonoFactorisation]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Lattice.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Subobject/Limits.lean [hunk 8]
```diff
@@ -326,6 +331,16 @@ theorem imageSubobject_arrow :
...
 
+lemma _root_.CategoryTheory.Subobject.exists_eq_imageSubobject [HasImages C]
+    (f : X ⟶ Y) (X' : Subobject X) : («exists» f).obj X' = imageSubobject (X'.arrow ≫ f) := by
+  apply eq_of_comm ((existsIsoImage f X').trans (imageSubobjectIso (X'.arrow ≫ f)).symm)
+  simp only [Iso.trans_hom, Iso.symm_hom, assoc, imageSubobject_arrow']
+  exact Over.w ((Subobject.existsCompRepresentativeIso f).app X').hom.hom
+
+lemma _root_.CategoryTheory.Subobject.exists_mk_eq_imageSubobject [HasImages C]
+    {A : C} (g : A ⟶ X) [Mono g] (f : X ⟶ Y) :
+    («exists» f).obj (mk g) = imageSubobject (g ≫ f) := by rfl
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Limits.lean]:
```suggestion
    («exists» f).obj (mk g) = imageSubobject (g ≫ f) := rfl
```

File: Mathlib/CategoryTheory/Subobject/Limits.lean [hunk 9]
```diff
@@ -326,6 +331,16 @@ theorem imageSubobject_arrow :
 theorem imageSubobject_arrow' :
     (imageSubobjectIso f).inv ≫ (imageSubobject f).arrow = image.ι f := by simp [imageSubobjectIso]
 
+lemma _root_.CategoryTheory.Subobject.exists_eq_imageSubobject [HasImages C]
+    (f : X ⟶ Y) (X' : Subobject X) : («exists» f).obj X' = imageSubobject (X'.arrow ≫ f) := by
+  apply eq_of_comm ((existsIsoImage f X').trans (imageSubobjectIso (X'.arrow ≫ f)).symm)
+  simp only [Iso.trans_hom, Iso.symm_hom, assoc, imageSubobject_arrow']
+  exact Over.w ((Subobject.existsCompRepresentativeIso f).app X').hom.hom
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Limits.lean]:
```suggestion
  exact ((Subobject.existsCompRepresentativeIso f).app X').hom.hom.w
```

File: Mathlib/CategoryTheory/Subobject/Limits.lean [hunk 10]
```diff
@@ -363,6 +378,25 @@ theorem imageSubobject_comp_le {X' : C} (h : X' ⟶ X) (f : X ⟶ Y) [HasImage f
     imageSubobject (h ≫ f) ≤ imageSubobject f :=
   Subobject.mk_le_mk_of_comm (image.preComp h f) (by simp)
 
+theorem imageSubobject_epi_comp [HasStrongEpiMonoFactorisations C] {X Y X' : C}
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Limits.lean]:
```suggestion
theorem imageSubobject_strongEpi_comp [HasStrongEpiMonoFactorisations C] {X Y X' : C}
```

File: Mathlib/CategoryTheory/Subobject/Limits.lean [hunk 11]
```diff
@@ -363,6 +378,25 @@ theorem imageSubobject_comp_le {X' : C} (h : X' ⟶ X) (f : X ⟶ Y) [HasImage f
...
+    ((image.isoStrongEpiMono e f rfl).symm ≪≫
+      (image.isoStrongEpiMono (𝟙 _) f (Category.id_comp _))) (by simp)
+
+lemma _root_.CategoryTheory.Subobject.sup_eq_imageSubobject [HasImages C] [HasBinaryCoproducts C]
+    {A : C} (X Y : Subobject A) :
+    X ⊔ Y = imageSubobject (coprod.desc X.arrow Y.arrow) :=
+  eq_mk_of_comm (image.ι (coprod.desc X.arrow Y.arrow)) (supIsoImage X Y) (ofLEMk_comp _)
+
+lemma _root_.CategoryTheory.Subobject.mk_mono_eq_imageSubobject [HasStrongEpiMonoFactorisations C]
+    {X Y : C} {f : X ⟶ Y} {I' : C} (e : X ⟶ I') (m : I' ⟶ Y) (comm : e ≫ m = f)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Subobject/Limits.lean]:
```suggestion
    {X Y : C} {f : X ⟶ Y} {I' : C} (e : X ⟶ I') (m : I' ⟶ Y) (comm : e ≫ m = f := by cat_disch)
```

**Review by robin-carlier — COMMENTED** [review]
Thanks! The proof of `exists_pullback_eq_inf_of_mono` is not very nice (combining `change` and a terminal `rfl` after a rewrite), but I didn’t find much better. The rest of the comments are mostly nitpicks.
